* source PLETHYSMOGRAPH_AMP_BLOCKS_FILTER_TL074
V_V1         N06746 0   PWL   
+ REPEAT FOREVER  
+ FILE "C:\Users\N\Documents\GitHub\Plethysmograph\TEK0003formatted_crop.csv" 
+ ENDREPEAT
R_R4         OUT 5V  1k TC=0,0 
R_R16         N06610 N09169  10k TC=0,0 
C_C6         5V N06610  10uF  TC=0,0 
X_U2         N07605 N06610 VCC 0 OUT LM293/5_1/TI
R_R5         N07125 VCC  82k TC=0,0 
V_V2         VCC 0 9Vdc
C_C5         0 N07125  100nF  TC=0,0 
X_U3A         N07125 5V VCC 0 5V TL074/301/TI
R_R6         0 N07125  100k TC=0,0 
C_C2         0 VCC  100nF  TC=0,0 
R_R17         N07605 N07596  10k TC=0,0 
C_C7         N09169 N07596  2.2uF  TC=0,0 
C_C1         N06746 N43229 C_C1 0.001  TC=0,0 
.model        C_C1 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R34         N43429 N43443 R_R34 6k TC=0,0 
.model        R_R34 RES R=1 DEV=5% TC1=0 TC2=0
R_R18         N43219 N43429 R_R18 6k TC=0,0 
.model        R_R18 RES R=1 DEV=5% TC1=0 TC2=0
C_C17         N43391 N43429 C_C17 10u  TC=0,0 
.model        C_C17 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
C_C13         5V N43443 C_C13 10u  TC=0,0 
.model        C_C13 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R1         5V N43229 R_R1 510 TC=0,0 
.model        R_R1 RES R=1 DEV=5% TC1=0 TC2=0
R_R35         N47818 N07596  22k TC=0,0 
R_R36         5V N47818  1k TC=0,0 
X_U4A         N43229 N43219 VCC 0 N43219 TL074/301/TI
X_U4B         N43443 N43391 VCC 0 N43391 TL074/301/TI
X_U4C         N43391 N47818 VCC 0 N07596 TL074/301/TI
X_U4D         5V N49884 VCC 0 N49884 TL074/301/TI
